US04101656
7β-Methylthioacetamido-3-[1-(2-methanesulfonamidoethyl)-tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid
To a stirred, cooled (-20°) solution of 11.32 g (0.026 mol) of 7-amino-3-[1-(2-methanesulfonamidoethyl)tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid in 220 ml of 3% sodium bicarbonate and 220 ml of acetone is added dropwise a solution of 3.66 g (0.029 mol) of methylthioacetyl chloride in 52 ml of acetone, during which time the pH of the reaction mixture is maintained at 8.0 by addition of 10% sodium hydroxide. After addition the reaction mixture is stirred an additional 20 minutes at -15°, then is warmed to 25° and extracted with ether. The remaining aqueous phase is cooled, 250 ml of ethyl acetate is added and the slurry is acidified with 3N hydrochloric acid. The layers are separated and the aqueous phase is extracted twice more with ethyl acetate. The combined extracts are dried (MgSO4) and evaporated to dryness to yield the title compound.

reactant | 7-amino-3-[1-(2-methanesulfonamidoethyl)tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid | 0.026 mol, 11.32 g | NC1[C@@H]2N(C(=C(CS2)C(CCNS(=O)(=O)C)SC2=NN=NN2)C(=O)O)C1=O | C12H17N7O5S3
reactant | methylthioacetyl chloride | 0.029 mol, 3.66 g | CCC(=S)Cl | C3H5ClS
reactant | sodium hydroxide | [OH-].[Na+]
solvent | sodium bicarbonate | 220 ml | C([O-])(O)=O.[Na+]
solvent | acetone | 220 ml | CC(=O)C | C3H6O
solvent | acetone | 52 ml | CC(=O)C | C3H6O
product | 7β-Methylthioacetamido-3-[1-(2-methanesulfonamidoethyl)-tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid | CCC(=S)N[C@H]1[C@@H]2N(C(=C(CS2)C(CCNS(=O)(=O)C)SC2=NN=NN2)C(=O)O)C1=O | C15H21N7O5S4
